US04713080
(a) 3,5-dimethoxy-pyridine
50 g of 3,5-dichloro-pyridine are dissolved in 250 ml dimethylsulfoxide. 15 g sodium methylate are added to this solution under stirring. It is stirred under exclusion of moisture at 60°-80° C. 15 g sodium methylate are further added after each of 8 and 16 hours. After a total of 72 hours' stirring, the reaction mixture is reacted with a little water and shaked out with diethylether. The ether phase, after drying, is distilled in a vacuum, resulting in 24 g (51% of theoretical amount) of 3,5-dimethoxy-pyridine in the boiling range 90°-120° C. at 1.6·103Pa. The product is polluted with a small amount of 3-chloro-5-methoxypyridine. It can, however, be employed directly in the next stage for nitrification, since the chloro-compound is not dinitrified and therefore can easily be removed upon crystallization of the 3,5-dimethoxy-2,6-dinitro-pyridine.

reactant | 3,5-dichloro-pyridine | 50 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | sodium methylate | 15 g | C[O-].[Na+]
reactant | sodium methylate | 15 g | C[O-].[Na+]
reactant | water | O | H2O
reactant | 3-chloro-5-methoxypyridine | ClC=1C=NC=C(C1)OC | C6H6ClNO
solvent | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | diethylether | C(C)OCC | C4H10O
product | 3,5-dimethoxy-pyridine | COC=1C=NC=C(C1)OC | C7H9NO2
